US07947704B2
2-Chloro-4-methyl-6-methoxyphenylacetic acid
75 g (328 mmol) of methyl 2-chloro-4-methyl-6-methoxyphenylacetate according to Ex. XXXI-1 are dissolved in 750 ml of methanol and then heated at 80° C. together with 55.20 g (984 mmol) of potassium hydroxide and 250 ml of water for 12 h. The methanol is removed using a rotary evaporator, the residue is adjusted to pH 3 and the precipitated product is filtered off and dried.

reactant | methyl 2-chloro-4-methyl-6-methoxyphenylacetate | 328 mmol, 75 g | ClC1=C(C(=CC(=C1)C)OC)CC(=O)OC | C11H13ClO3
reactant | potassium hydroxide | 984 mmol, 55.20 g | [OH-].[K+]
reactant | water | 250 ml | O | H2O
solvent | methanol | 750 ml | CO | CH4O
product | 2-Chloro-4-methyl-6-methoxyphenylacetic acid | ClC1=C(C(=CC(=C1)C)OC)CC(=O)O | C10H11ClO3
